### PR TITLE
[Merged by Bors] - feat: HasCompactSupport.sub lemma (multiplicative & additive version)

### PR DESCRIPTION
**Pull request by luigi-massacci**
Filled missing API, easy consequence from lemma for negation.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Algebra/Support.lean [hunk 1]
```diff
@@ -333,6 +333,13 @@ protected lemma HasCompactMulSupport.inv' {α β : Type*} [TopologicalSpace α]
     HasCompactMulSupport (f⁻¹) := by
   simpa only [HasCompactMulSupport, mulTSupport, mulSupport_inv'] using hf
 
+@[to_additive]
+theorem HasCompactSupport.div {α β : Type*} [TopologicalSpace α] [DivisionMonoid β]
+    {f f' : α → β} (hf : HasCompactMulSupport f) (hf' : HasCompactMulSupport f') :
+    HasCompactMulSupport (f / f') :=
+  div_eq_mul_inv f f' ▸ hf.mul hf'.inv'
+
```
Comment (grunweg) [inline Mathlib/Topology/Algebra/Support.lean:341]:
```suggestion

**Review by grunweg — COMMENTED** [review]
Thanks!
maintainer delegate

**Comment by ADedecker** [comment]
Thanks!
bors d+

File: Mathlib/Topology/Algebra/Support.lean [hunk 2]
```diff
@@ -333,6 +333,12 @@ protected lemma HasCompactMulSupport.inv' {α β : Type*} [TopologicalSpace α]
     HasCompactMulSupport (f⁻¹) := by
   simpa only [HasCompactMulSupport, mulTSupport, mulSupport_inv'] using hf
 
+@[to_additive]
+theorem HasCompactSupport.div {α β : Type*} [TopologicalSpace α] [DivisionMonoid β]
```
Comment (eric-wieser) [inline Mathlib/Topology/Algebra/Support.lean:337]: Maybe wait a few days to see if you get a reply to https://github.com/leanprover-community/mathlib4/pull/12629/files#r2226829755, and whether this should be `div'` instead.

My guess is that your name is correct and it was a mistake in the linked PR.

bors d+

Thanks!

Comment (grunweg) [reply Mathlib/Topology/Algebra/Support.lean:337]: My understanding is that this name is correct, and the linked PR was consistent with another (incorrect name) --- both of which I'm fixing, so this PR can imho just stick to its name.

Comment (grunweg) [reply Mathlib/Topology/Algebra/Support.lean:337]: In other words, I think this is good to be `bors r+`-ed.

**Comment by kbuzzard** [comment]
bors merge
